US07858632B2
A mixture of 4-[4-Isopropyl-2-methoxy-5-(toluene4-sulfonyl)-phenyl]-thiazole (1.0 g, 2.27 mmol) and K2CO3 (1.6 g, 11.34 mmol) in anhydrous MeOH (10 ml) was refluxed for 8 hrs. Solvent was removed in vacuo and the residue was partitioned between methylene chloride and water. The combined organic extract was dried over Na2SO4, filtered, and concentrated to give 2-Isopropyl-4-methoxy-5-thiazol-4-yl-phenol.

reactant | 4-[4-Isopropyl-2-methoxy-5-(toluene4-sulfonyl)-phenyl]-thiazole | 2.27 mmol, 1.0 g | C(C)(C)C1=CC(=C(C=C1S(=O)(=O)C1=CC=C(C=C1)C)C=1N=CSC1)OC | C20H21NO3S2
reactant | K2CO3 | 11.34 mmol, 1.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 10 ml | CO | CH4O
product | 2-Isopropyl-4-methoxy-5-thiazol-4-yl-phenol | C(C)(C)C1=C(C=C(C(=C1)OC)C=1N=CSC1)O | C13H15NO2S
